US04379151
3-[1-(α-Methylbenzyl)-3-azetidinyloxy]benzamide Oxalate
3-[1-(α-Methylbenzyl)-3-azetidinyloxy]benzonitrile (50.0 g.; 0.18 mole) in 500 ml. of t-butyl alcohol was treated with 50.0 g. of finely ground potassium hydroxide. The mixture was stirred at reflux for 30 min. Ice and water were added to the reaction mixture and the organic layer was separated and dried over sodium sulfate. The dried filtered solution was concentrated at reduced pressure. The residue was dissolved in methanol and treated with an equivalent of oxalic acid, and the oxalate salt was recrystallized from ethanol to give 11.4 g. (16%) of product, (m.p. 145° C.).

reactant | 3-[1-(α-Methylbenzyl)-3-azetidinyloxy]benzonitrile | 0.18 mole, 50.0 g | CC(C1=CC=CC=C1)N1CC(C1)OC=1C=C(C#N)C=CC1 | C18H18N2O
reactant | t-butyl alcohol | C(C)(C)(C)O | C4H10O
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | O | H2O
product | 3-[1-(α-Methylbenzyl)-3-azetidinyloxy]benzamide Oxalate | C(C(=O)O)(=O)O.CC(C1=CC=CC=C1)N1CC(C1)OC=1C=C(C(=O)N)C=CC1 | InChI=1S/C18H20N2O2.C2H2O4/c1-13(14-6-3-2-4-7-14)20-11-17(12-20)22-16-9-5-8-15(10-16)18(19)21;3-1(4)2(5)6/h2-10,13,17H,11-12H2,1H3,(H2,19,21);(H,3,4)(H,5,6)
